US05912245
To a solution of 6.11 g (0.1 mole) of ethanolamine in 40 ml of water 6.11 g (0.02 mole) of 1,2,3,4-tetrahydro-7-nitro-2,3-dioxo-6-quinoxalinesulfonyl chloride are added under stirring, the reaction mixture is stirred at room temperature for 6 hours and then allowed to stand for 16 hours. The separated crystals are filtered off, washed with acetone, dried, dissolved in a slight amount of hot dimethyl sulfoxide and precipitated from this solution with 2-propanol. Thus 3.70 g (56%) of 1,2,3,4-tetrahydro-N-(2-hydroxyethyl)-7-nitro-2,3-dioxo-6-quinoxaline sulfonamide are obtained, m.p.: 281-289° C.

reactant | ethanolamine | 0.1 mole, 6.11 g | C(O)CN | C2H7NO
reactant | water | 0.02 mole, 40 ml, 6.11 g | O | H2O
reactant | 1,2,3,4-tetrahydro-7-nitro-2,3-dioxo-6-quinoxalinesulfonyl chloride | [N+](=O)([O-])C1=C(C=C2NC(C(NC2=C1)=O)=O)S(=O)(=O)Cl | C8H4ClN3O6S
product | 1,2,3,4-tetrahydro-N-(2-hydroxyethyl)-7-nitro-2,3-dioxo-6-quinoxaline sulfonamide | 3.70 g, 56% | OCCNS(=O)(=O)C=1C=C2NC(C(NC2=CC1[N+](=O)[O-])=O)=O | C10H10N4O7S
